US06919356B2
Part K: Preparation of 3-ethyl-5-(1-methyl-1H-tetrazole-5-yl)aniline
A mixture of impure 1-methyl-5-(3-nitro-5-vinylphenyl)-1H-tetrazole (17.0 g) and palladium hydroxide on charcoal (3.0 g) in methanol (50 mL) was shaken under a hydrogen atmosphere (50 psig) for 4 hours. The mixture was filtered and the filtrate was concentrated under vacuum to provide an amber solid (14.3 g). 1H NMR (300 MHz, CDCl3) δ6.90 (s, 1H), 6.87 (s, 1H), 6.73 (s, 1H), 4.16 (s, 3H), 3.95 (bs, 2H), 2.65 (q, J=7 Hz, 2H), 1.22 (t, J=7 Hz, 3H).

reactant | 1-methyl-5-(3-nitro-5-vinylphenyl)-1H-tetrazole | 17.0 g | CN1N=NN=C1C1=CC(=CC(=C1)C=C)[N+](=O)[O-] | C10H9N5O2
solvent | methanol | 50 mL | CO | CH4O
catalyst | palladium hydroxide on charcoal | 3.0 g | [OH-].[OH-].[Pd+2]
product | 3-ethyl-5-(1-methyl-1H-tetrazole-5-yl)aniline | 14.3 g | C(C)C=1C=C(N)C=C(C1)C1=NN=NN1C | C10H13N5
